US05332746
8-phenyl-10-hydroxymethyl-5,6-dihydro-4H-pyrido[4',3':4,5]pyrrolo[3,2,1-ij]quinoline
1.4 g (4 mmol) of 8-phenyl-10-ethoxycarbonyl-5,6-dihydro-4H-pyrido[4',3':4,5]pyrrolo[3,2,1-ij]quinoline were dissolved in 25 ml of tetrahydrofuran and added dropwise to a mixture of 0.5 g (13 mmol) of lithium aluminium hydride and 10 ml of ether at a temperature of 30° C. After cooling, 1 ml of water and 1 ml of 2N sodium hydroxide solution were added dropwise successively. After boiling for 15 minutes the solid was filtered off. The filtrate was evaporated in vacuum. The residue was boiled with 20 ml of ethanol and kept at 0° C. for 24 hours. The solid was sucked off and dried. Obtained were 0.95 g of the desired product having a melting-point of 209°-211° C.

reactant | 8-phenyl-10-ethoxycarbonyl-5,6-dihydro-4H-pyrido[4',3':4,5]pyrrolo[3,2,1-ij]quinoline | 4 mmol, 1.4 g | C1(=CC=CC=C1)C1=NC(=CC2=C1N1CCCC3=CC=CC2=C13)C(=O)OCC | C23H20N2O2
reactant | lithium aluminium hydride | 13 mmol, 0.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ether | 10 ml | CCOCC | C4H10O
reactant | sodium hydroxide | 2N, 1 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | 8-phenyl-10-hydroxymethyl-5,6-dihydro-4H-pyrido[4',3':4,5]pyrrolo[3,2,1-ij]quinoline | 0.95 g | C1(=CC=CC=C1)C1=NC(=CC2=C1N1CCCC3=CC=CC2=C13)CO | C21H18N2O
